US09120824B2
Description 33: methyl 4-((S)-1-((R)-1-(3-methylbenzyl)pyrrolidine-2-carboxamido)ethyl)benzoate (D33)
The title compound (D33) (30 mg) was prepared according to the general procedure for substituted benzyl amines preparation starting from methyl 4-((S)-1-((R)-pyrrolidine-2-carboxamido)ethyl)benzoate (D14) (50 mg, 0.18 mmol) and 3-methylbenzyl bromide (0.05 ml, 0.36 mmol). (Na2CO3: 2.5 eq; reaction time: 5 hrs; 70° C.)

reactant | methyl 4-((S)-1-((R)-pyrrolidine-2-carboxamido)ethyl)benzoate | 0.18 mmol, 50 mg | N1[C@H](CCC1)C(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C15H20N2O3
reactant | 3-methylbenzyl bromide | 0.36 mmol, 0.05 ml | CC=1C=C(CBr)C=CC1 | C8H9Br
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | methyl 4-((S)-1-((R)-1-(3-methylbenzyl)pyrrolidine-2-carboxamido)ethyl)benzoate | 30 mg | CC=1C=C(CN2[C@H](CCC2)C(=O)N[C@@H](C)C2=CC=C(C(=O)OC)C=C2)C=CC1 | C23H28N2O3
